US05010100
Step B: Preparation of 1-(5-iodo-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-butan-1,4-dione
n-Propyl bromide (29.2 mL, 0.32 mole) was added to a solution of 1-(5-iodo-4-hydroxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione (100 g, 0.2 mole) in DMF (400 mL) containing potassium carbonate (96 g, 0.35 mole). The mixture was stirred at 70° C. for 2 hours during which time starting material disappeared. The mixture was cooled, filtered, and extracted with ethyl acetate, and the extract was washed with water and brine, dried over anhydrous MgSO4, and evaporated in vacuo to afford the crude product. Crystallization from ether/hexane gave the title compound as white crystals, m.p. 120°-121° C. NMR (CDCl3) δ 1.08 (t, J=7.5 Hz, CH2CH2CH3) 1.87 (m, CH2CH2CH3), 2.41 (t, J=4 Hz, COCH2CH2CO), 3.90 and 3.94 (s, u Ar OCH3), 4.04 (t, J=8 Hz, OCH2CH2CH3), 7.28 (s, trimethoxyphenyl H-2, H-6), 7.51 (d, J=1.5 Hz, Iodophenyl 'H-6), 8.06 (d, J=1.5 Hz, Iodophenyl 'H-2).

reactant | n-Propyl bromide | 0.32 mole, 29.2 mL | CCCBr | C3H7Br
reactant | 1-(5-iodo-4-hydroxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione | 0.2 mole, 100 g | IC=1C(=C(C=C(C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC)O | C20H21IO7
reactant | potassium carbonate | 0.35 mole, 96 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 1-(5-iodo-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-butan-1,4-dione | IC=1C(=C(C=C(C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC)OCCC | C23H27IO7
